US07799923B2
To a solution of 0.30 g (0.8 mmol) of 5-chloro-7-cyanomethyl-indole-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester in CH2Cl2 (8 ml) at RT was added 2 ml of TFA. The reaction mixture was stirred at RT for one hour and concentrated under vacuo The crude was taken up in EtOAc and neutralized with aqueous NaHCO3. The combined organic phases were dried over Na2SO4 and concentrated in vacuo. Preparative HPLC (30% CH3CN/H2O) afforded 81 mg (35%) of 5-chloro-7-cyanomethyl-1H-indole-2-carboxylic acid ethyl ester as a white solid.

reactant | 5-chloro-7-cyanomethyl-indole-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester | 0.8 mmol, 0.30 g | CCOC(=O)C=1N(C2=C(C=C(C=C2C1)Cl)CC#N)C(=O)OC(C)(C)C | C18H19ClN2O4
reactant | TFA | 2 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 8 ml | C(Cl)Cl | CH2Cl2
product | 5-chloro-7-cyanomethyl-1H-indole-2-carboxylic acid ethyl ester | 81 mg, 35% | C(C)OC(=O)C=1NC2=C(C=C(C=C2C1)Cl)CC#N | C13H11ClN2O2
